US04868340
2.0 G (0.011M) of methyl beta-cyclogeranate were slowly added at -78° to a solution of lithium diisopropylamide (1.05 equiv.) in 30 ml of THF. Once the introduction is over, the temperature of the reaction mixture was increased to 15° and 3.17 ml (0.011M) of a 70% solution of VITRIDE in toluene were rapidly added thereto. The reaction temperature was increased to 40° and after 45 mn, the mixture was treated with 4.07 g of 2-butanol (0.055M). After subjecting the mixture to the same treatments as those described in the previous example, 1.31 g of beta-cyclocitral was obtained by distillation at 45°-50°/1.33 Pa (yield: 67%). By carrying out the hydrolysis by means of a saturated aqueous solution of ammonium chloride or by means of aqueous HCl instead of 2-butanol, a mixture of beta-/gamma-cyclocitral was obtained with an isomeric content of about 70/30 respectively. In view of the fact that alpha-cyclocitral isomerizes easily to beta-cyclocitral, this latter compound can be easily synthesized starting from a mixture of methyl alpha- and beta-cyclogeranate or simply from the alpha-isomer.

reactant | lithium diisopropylamide | 1.05 equiv. | C(C)(C)[N-]C(C)C.[Li+]
reactant | VITRIDE | COCCO[AlH2-]OCCOC.[Na+]
reactant | 2-butanol | 0.055M, 4.07 g | CC(CC)O | C4H10O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | beta-cyclocitral | 1.31 g, yield: 67% | CC1=C(C(CCC1)(C)C)C=O | C10H16O
